US08895580B2
Step 4: Preparation of 4-(azidomethyl)-1-phenylpiperidin-2-one
(2-oxo-1-phenylpiperidin-4yl)methyl methanesulfonate (0.37 g, 1.3 mmol) was dissolved in dimethylsulfoxide (6 mL), treated with sodium azide (0.18 g, 2.8 mmol, 2.1 equiv) and placed into a preheated oil bath at 60° C. for 18 hours. The mixture was cooled to ambient temperature, diluted with ethyl acetate (50 mL) and washed twice with water (50 mL) and brine (50 mL). The organic extract was dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | (2-oxo-1-phenylpiperidin-4yl)methyl methanesulfonate | 1.3 mmol, 0.37 g | CS(=O)(=O)OCC1CC(N(CC1)C1=CC=CC=C1)=O | C13H17NO4S
reactant | sodium azide | 2.8 mmol, 0.18 g, 2.1 equiv | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulfoxide | 6 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-(azidomethyl)-1-phenylpiperidin-2-one | N(=[N+]=[N-])CC1CC(N(CC1)C1=CC=CC=C1)=O | C12H14N4O
